US05616586
9-Bromo-5-(8-quinolylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and 8-aminoquinoline (150 mg, 1.04 mmol) to give 180 mg of the title compound (77%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.08 (bs, 1H), 10.25 (s, 1H), 8.90 (dd, 1H, J=1.8, 4.5 Hz), 8.61 (d, J=6.6 Hz), 8.41 (d, 8.3 Hz), 7.56 7.70 (m, 3H), 7.24 (s, 1H), 7.18 (s, 1H), 5.25~5.34 (m, 1H), 3.18 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 3.03 (dd, 1H, J=14.5, 8.9 Hz), 2.78~2.85 (m, 2H), 2.17 (dm, 1H, J=13.5 Hz), 1.85~1.99 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | 8-aminoquinoline | 1.04 mmol, 150 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
product | 9-Bromo-5-(8-quinolylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 180 mg, 77% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC=2C=CC=C1C=CC=NC21)=O | C22H17BrN4O3
